US07935688B2
(1) Synthesis of (S)-t-butoxycarbonylamino-(4-chloro-phenyl)-acetic Acid Methyl Ester
A 0.5 N potassium bisulfate aqueous solution (4.0 mL) was added to a suspension of dicyclohexylammonium (S)-t-butoxycarbonylamino-(4-chloro-phenyl)acetate (307 mg, 0.657 mmol) in ether (8.0 mL) at room temperature, and the mixture was stirred for 10 minutes. Then, the ether layer was separated, and the aqueous layer was extracted with ether (2×8 mL) and combined with the organic layer. The ether layer was washed with water (12 mL), dried over anhydrous magnesium sulfate and then concentrated under reduced pressure. The resulting residue was dissolved in benzene (1.8 mL) and methanol (0.9 mL). A solution of trimethylsilyldiazomethane in hexane (2 M, 0.36 mL, 0.72 mmol) was added dropwise under cooling with ice over five minutes, and then the mixture was stirred under cooling with ice for 10 minutes. The reaction mixture was concentrated under reduced pressure. The residue was purified by silica gel chromatography (hexane/ethyl acetate=5/1) to give the title compound (190 mg, 96%).

reactant | potassium bisulfate | 0.5 N, 4.0 mL | S([O-])(O)(=O)=O.[K+]
reactant | dicyclohexylammonium (S)-t-butoxycarbonylamino-(4-chloro-phenyl)acetate | 0.657 mmol, 307 mg | C(C)(C)(C)OC(=O)N[C@H](C(=O)[O-])C1=CC=C(C=C1)Cl.C1(CCCCC1)[NH2+]C1CCCCC1
reactant | trimethylsilyldiazomethane | C[Si](C)(C)C=[N+]=[N-] | C4H10N2Si
reactant | hexane | 0.72 mmol, 2 M, 0.36 mL | CCCCCC | C6H14
solvent | ether | 8.0 mL | CCOCC | C4H10O
product | (S)-t-butoxycarbonylamino-(4-chloro-phenyl)-acetic Acid Methyl Ester | 190 mg, 96% | COC([C@H](C1=CC=C(C=C1)Cl)NC(=O)OC(C)(C)C)=O | C14H18ClNO4
